US09212168B2
(a) (R)-3-Methyl-4-(5-nitro-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
In each of two separate reactions, a mixture of 2-chloro-5-nitropyridine (1.0 g, 6.3 mmol), (R)-3-methyl-piperazine-1-carboxylic acid tert-butyl ester (1.4 g, 6.9 mmol), and potassium carbonate (1.31 g, 9.46 mmol) in DMSO (20 mL) was heated at 100° C. overnight. The reaction mixtures were cooled to RT, filtered through silica gel, and eluted with EtOAc (150 mL). The filtrate was washed with water (2×20 mL) and brine (20 mL), dried over sodium sulfate, filtered, and concentrated to give a brownish oil, which was purified by silica gel chromatography (40 g silica gel, 0-60% EtOAc/Hexanes). Desired fractions were combined and concentrated to provide the title intermediate (1.39 g each) as a yellowish solid. (m/z): [M+H]+ calcd for C15H22N4O4 323.16. found 323.3.

reactant | 2-chloro-5-nitropyridine | 6.3 mmol, 1.0 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | (R)-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | 6.9 mmol, 1.4 g | C(C)(C)(C)OC(=O)N1C[C@H](NCC1)C | C10H20N2O2
reactant | potassium carbonate | 9.46 mmol, 1.31 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | (R)-3-Methyl-4-(5-nitro-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 1.39 g | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C1=NC=C(C=C1)[N+](=O)[O-])C | C15H22N4O4
